US05378714
1-[2-(3,4-Methylenedioxyphenylcarbamoyloxy)propyl]-4-(6-fluoro-1H-indazol-3-yl) piperidine
Starting from 3-[1-(2-hydroxyprop-1-yl)-4-piperidinyl]-6-fluoro-1H-indazole (300 mg, 1.1 mmol) and 3,4-methylenedioxyphenylisocyanate (380 mg, 2.2 mmol) using the procedure described in example 12A was prepared 40 mg (9%) of the title compound as an amorphous solid.

reactant | 3-[1-(2-hydroxyprop-1-yl)-4-piperidinyl]-6-fluoro-1H-indazole | 1.1 mmol, 300 mg | OC(CN1CCC(CC1)C1=NNC2=CC(=CC=C12)F)C | C15H20FN3O
reactant | 3,4-methylenedioxyphenylisocyanate | 2.2 mmol, 380 mg | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
product | 1-[2-(3,4-Methylenedioxyphenylcarbamoyloxy)propyl]-4-(6-fluoro-1H-indazol-3-yl) piperidine | 40 mg, 9% | C1OC=2C=C(C=CC2O1)NC(=O)OC(CN1CCC(CC1)C1=NNC2=CC(=CC=C12)F)C | C23H25FN4O4
